US07074800B1
Using an analogous procedure to that described in Example 37, 4-chloro-6-methoxy-7-(3-pyrrolidin-1-ylpropoxy)quinazoline (100 mg, 0.31 mmol), (prepared as described for the starting material in Example 9), was reacted with 5-amino-2,3-dimethylindole (55 mg, 0.34 mmol) to give 4(2,3-dimethylindol-5-ylamino)-6-methoxy-7-(3-pyrrolidin-1-ylpropoxy)quinazoline hydrochloride (114 mg, 72%).

reactant | 4-chloro-6-methoxy-7-(3-pyrrolidin-1-ylpropoxy)quinazoline | 0.31 mmol, 100 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCC1 | C16H20ClN3O2
reactant | 5-amino-2,3-dimethylindole | 0.34 mmol, 55 mg | NC=1C=C2C(=C(NC2=CC1)C)C | C10H12N2
product | 4(2,3-dimethylindol-5-ylamino)-6-methoxy-7-(3-pyrrolidin-1-ylpropoxy)quinazoline hydrochloride | 114 mg, 72% | Cl.CC=1NC2=CC=C(C=C2C1C)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCC1 | InChI=1S/C26H31N5O2.ClH/c1-17-18(2)29-22-8-7-19(13-20(17)22)30-26-21-14-24(32-3)25(15-23(21)27-16-28-26)33-12-6-11-31-9-4-5-10-31;/h7-8,13-16,29H,4-6,9-12H2,1-3H3,(H,27,28,30);1H
